US08895571B2
Step D: (2S)-2-[5-(4-chloro-1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]-3-(3-fluorophenyl)propanal
To a solution of 5-(4-chloro-1-methyl-1H-pyrazol-5-yl)-2-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]isoindolin-1-one (0.8 g, 2.001 mmol) in methylene chloride (10 mL, 200 mmol) at 0° C. was added Dess-Martin periodinane (1.02 g, 2.40 mmol). The reaction mixture was stirred at room temperature for 1 h, and then quenched with 1 N NaOH aqueous solution, and extracted with DCM (2×). The combined organic phases were washed with water, brine and dried over Na2SO4, filtered and concentrated under reduced pressure to give 685 mg (86% yield) of the desired product as yellowish solid. LC/MS found: 398.1 (M+H)+.

reactant | 5-(4-chloro-1-methyl-1H-pyrazol-5-yl)-2-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]isoindolin-1-one | 2.001 mmol, 0.8 g | ClC=1C=NN(C1C=1C=C2CN(C(C2=CC1)=O)[C@H](CO)CC1=CC(=CC=C1)F)C | C21H19ClFN3O2
reactant | methylene chloride | 200 mmol, 10 mL | C(Cl)Cl | CH2Cl2
reactant | Dess-Martin periodinane | 2.40 mmol, 1.02 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
product | (2S)-2-[5-(4-chloro-1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]-3-(3-fluorophenyl)propanal | 685 mg, 86% yield | ClC=1C=NN(C1C=1C=C2CN(C(C2=CC1)=O)[C@H](C=O)CC1=CC(=CC=C1)F)C | C21H17ClFN3O2
